### PR TITLE
Fix deprecation warnings from MC 2.0 and 1.17

### PR DESCRIPTION
**Pull request by proux01**
##### Things done/to do

- [ ] ~added corresponding entries in `CHANGELOG_UNRELEASED.md`~

- [ ] ~added corresponding documentation in the headers~

##### Compatibility with MathComp 2.0

- [ ] ~I added the label `TODO: HB port` to make sure someone ports this PR to
      the `hierarchy-builder` branch **or** I already opened an issue or PR (please cross reference).~ (this is targetting HB, could be partly backported to master but only once it drops support for MC 1.16)

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: classical/boolp.v [hunk 1]
```diff
@@ -362,14 +362,11 @@ Proof. by move=> + G Gs x => /(_ x)/cid[x' <-]. Qed.
 Arguments canon {T U sort} x.
 
 Lemma Peq : canonical Type eqType.
-Proof. by apply: canon => T; exists  [eqType of {classic T}]. Qed.
+Proof. by apply: canon => T; exists  {classic T}. Qed.
```
Comment (affeldt-aist) [inline classical/boolp.v:365]:
```suggestion
Proof. by apply: canon => T; exists {classic T}. Qed.
```

**Comment by proux01** [comment]
The 1.17 warnings were adressed using an adptation of that script: https://gist.github.com/JasonGross/9770653967de3679d131c59d42de6d17 (my adaptation is ridiculously fragile but seems to work in practice)

```python3
#!/usr/bin/env python3
import sys, re, os
from collections import defaultdict

# Authors: Jason Gross and Jean-Christophe Léchenet
#
# Usage: ./replace-notations.py logfile
# Uses the warnings in logfile to locate compatibility notation warnings,
# then search and replace to use the correct notations.
#
# Extended Usage:
# First, using the old version of Coq (e.g., 8.9), which emits deprecation
# warnings, run something like
#    make -Okj 2>&1 | tee logfile
# You may want to first run `make clean` to ensure that all files get built.
# N.B. The -O is for --output-sync, which ensures that output is interwoven
#  correctly when running with -j
#
# Once the build completes, you can run
#     ./replace-notations.py logfile
# This will update the .v files in place.  After this, you will want to run
# `make clean; make` with the *new* version of Coq (e.g., master, 8.10),
# which does not support compatbility notations, or else you will want to run
# `make OTHERFLAGS='-w "+compatibility-notation"'` with the old version of Coq.
#
# Note that in rare cases, there may be some compatibility notation uses that are
# not correctly updated by this script, and which have to be updated by hand.
#
# From https://github.com/coq/coq/issues/8383#issuecomment-424525941

if __name__ == '__main__':
    if len(sys.argv) <= 1:
        print("Add a log file to the command line", file=sys.stderr)
        exit (-1)
    logfile = sys.argv[1]
    # process warnings one by one
    repl = defaultdict(list)
    with open(logfile) as fin:
        while True:
            # search for a line of the form "File ..." followed by another
            # line of the form "Warning ..."
            line = fin.readline()
            if not line:
                break
            warning1 = re.search(r'File "([^"]*)", line ([0-9]*), characters ([0-9]*)-([0-9]*):', line)
            if not warning1:
                continue
            line = fin.readline ()
            # the "[compatibility-notation,deprecated]" part may be rejected
            # to a third line
            warning2 = re.search(r'Warning: Notation\s+([^ ]*)\s+is deprecated.*', line)
            if not warning2:
                continue
            warning3 = re.search(r'Warning: Notation\s+[^ ]*\s+is deprecated.*Use\s+([^. ]*).*', line)
            if not warning3:
                line = fin.readline ()
                warning3 = re.search(r'Use\s+([^ ]*).*', line)
                if not warning3:
                    continue
            filename = warning1.group(1)
            line = warning1.group(2)
            old_notation = warning2.group(1)
            new_notation = warning3.group(1)
            print('File {} at line {}: {} should be written {}.'
                    .format(filename, line,old_notation,new_notation))

            # line numbers are 1-indexed in Coq, 0-indexed in python
            # character numbers are 0-indexed in both
            numline = int(line) - 1
            last_char = int(warning1.group(4))
            repl[filename].append((numline, old_notation, new_notation, last_char))

    for filename, l in repl.items():

        # for each file, we correct warnings line by line
        with open(filename, 'r') as vfile:
            data = vfile.readlines()

    
        for numline, old_notation, new_notation, last_char in l:
            # When notation appears in multiline tactics, the line reported is
            # the starting line of the tactic, thus the notation may
            # be on a following line. In this case, though, the last character
            # is greater than the length of the line, so we can detect it.
            # When this occurs, we try to
            # find the corresponding notation in the following lines. Cannot
            # blindly rely on nb_sub = 0 to detect such cases, since, for some
            # reason, some warnings appear twice (and here we perform as many
            # substitutions as we can, we could try to perform at most one for
            # each warning to be more precise).
            while True:
                data[numline], nb_sub = re.subn(r'\b{}\b'.format(old_notation),
                                                new_notation, data[numline])

                if nb_sub > 0 or last_char < len(data[numline]):
                    break
                last_char -= len(data[numline])
                numline += 1
                assert (numline < len(data))

        with open(filename, 'w') as vfile:
            vfile.writelines( data )
```

File: classical/boolp.v (hunk 1 above)
Comment (proux01) [reply classical/boolp.v]: Good catch

**Comment by proux01** [comment]
@affeldt-aist CI green
